US07521446B2
N-((3S)-6-oxo(3-piperidyl))(tert-butoxy)carboxamide
Methyl (4S)-5-azido-4-[(tert-butoxy)carbonylamino]pentanoate (3.9 mmol, 1.07 g) was dissolved in methanol (10 mL), and 10% palladium on carbon (0.1 g) was added. The reaction was stirred overnight under 1 atm of hydrogen. The reaction was filtered and the solvent was removed in vacuo to yield the title compound (0.83 g, 99% yield). ES-MS: 215 (M+1).

reactant | Methyl (4S)-5-azido-4-[(tert-butoxy)carbonylamino]pentanoate | 3.9 mmol, 1.07 g | N(=[N+]=[N-])C[C@H](CCC(=O)OC)NC(=O)OC(C)(C)C | C11H20N4O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | N-((3S)-6-oxo(3-piperidyl))(tert-butoxy)carboxamide | 0.83 g, 99% yield | O=C1CC[C@@H](CN1)NC(=O)OC(C)(C)C | C10H18N2O3
